US06005116
3-Hydroxy-5-(4-hydroxyphenyl)isoxazole
3-Hydroxy-5-(4-methoxyphenyl)isoxazole (5.0 g) was suspended in dichloromethane (50 ml), and aluminum chloride (7.0 g) was added thereto, followed by reflux of the resulting mixture for 66 hours. At the end of this time, the reaction mixture was poured into ice-cold water, and 6N hydrochloric acid was added thereto, followed by extraction with ethyl acetate. After the extract was washed with a saturated aqueous NaCl solution, the organic layer was dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: cyclohexane/ethyl acetate=2/1) to obtain the title compound (3.8 g, 83%) as colorless crystals.

reactant | 3-Hydroxy-5-(4-methoxyphenyl)isoxazole | 5.0 g | OC1=NOC(=C1)C1=CC=C(C=C1)OC | C10H9NO3
reactant | aluminum chloride | 7.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Hydroxy-5-(4-hydroxyphenyl)isoxazole | 3.8 g, 83% | OC1=NOC(=C1)C1=CC=C(C=C1)O | C9H7NO3
